* C:\Users\91961\Desktop\Electronics-Circuit-Simulation\Second Order Bandpass Active Filter.asc
XU1 N002 N005 N003 N006 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 N003 0 10
V2 0 N006 10
R1 N005 0 10k
R2 Vout N005 20k
R3 Vout N001 1k
R4 N001 N004 10k
R5 0 N002 10k
C1 N001 0 0.1µ
C2 N002 N001 0.1µ
V3 N004 0 AC 1
* Sallen Key Bandpass Second Order Active Filter
.ac dec 100 1 1000k
.lib UniversalOpamps2.sub
.backanno
.end
